US07115607B2
Methyl 2-[4-benzylpiperazinyl]benzoate
To a 250 mL pressure bottle equipped with magnetic stirring was added methyl 2-fluorobenzoate (Lancaster Synthesis Inc.) (3.0 g, 20 mmol), 1-benzylpiperazine (Aldrich) (3.8 g, 22 mmol) and K2CO3 (3.0 g, 22 mmol) in DMF (100 mL) The mixture was heated at 150° C. for 12 h. After cooling to RT the reaction was diluted with EtOAc (100 mL) and H2O was added. The organic layer was separated and washed with H2O, brine, dried over Na2SO4, filtered and concentrated in vacuo to afford a brown oil. The crude material was purified by column chromatography (4:1 hexanes-EtOAc) to give the title compound as a white foam (3.6 g). MS (ESI, pos. ion) m/z: 311 (M+H). Calc'd for C19H22N2O2: 310.17.

reactant | methyl 2-fluorobenzoate | 20 mmol, 3.0 g | FC1=C(C(=O)OC)C=CC=C1 | C8H7FO2
reactant | 1-benzylpiperazine | 22 mmol, 3.8 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | K2CO3 | 22 mmol, 3.0 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | H2O | O | H2O
product | Methyl 2-[4-benzylpiperazinyl]benzoate | 3.6 g | C(C1=CC=CC=C1)N1CCN(CC1)C1=C(C(=O)OC)C=CC=C1 | C19H22N2O2
